US05886181
(S)-4-Formyl-1-(trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide
20.6 g (67.0 mmol) of 4-formyl-1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide, 26.2 mg (64.5 μmol) of bis(1,5-cyclooctadiene)rhodium(I) tetraflouroborate and 41.8 mg (77 μmol) of 1-[1(R)-(di-tert-butylphospino)ethyl]-2-(S)-(diphenylphosphino)-ferrocene were placed in a 160 ml autoclave under argon (S/C=1000). 70 ml of acetone (degassed) was added and hydrogenation was carried out for 11 hours at 100° C. under a hydrogen pressure of 13-10 bar. After distillation of the solvent, 20.5 g (99%) of the title compound was obtained in the form of a crystalline solid. After cleavage of the protecting groups, the enantioselectivity of the hydrogenation was determined by GC analysis, giving an ee of 96.4 percent. The melting point of the title compound was: 172.0° to 173.0° C. Other data concerning the title compound was:

reactant | 4-formyl-1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | 67.0 mmol, 20.6 g | C(C)(C)(C)NC(=O)C=1N(CCN(C1)C=O)C(C(F)(F)F)=O | C12H16F3N3O3
catalyst | bis(1,5-cyclooctadiene)rhodium(I) tetraflouroborate | 64.5 μmol, 26.2 mg | [B-](F)(F)(F)F.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Rh]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | (S)-4-Formyl-1-(trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide | 20.5 g, 99% | C(C)(C)(C)NC(=O)[C@H]1N(CCN(C1)C=O)C(C(F)(F)F)=O | C12H18F3N3O3
